US04569801
A mixture of 7.389 g (0.022 mol) of N-ethyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine in 92 ml of ethanol was hydrogenated at room temperature overnight in the presence 0.74 g of 5% palladium-on-carbon. A total of 87% of theoretical hydrogen uptake was observed. The reaction mixture was filtered through Celite and the filtrate was evaporated to dryness under reduced pressure to provide 6.312 g of N-ethyl-N-heptyl-α-methyl-4-aminobenzenebutanamine as an oil.

reactant | N-ethyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine | 0.022 mol, 7.389 g | C(C)N(C(CCCC1=CC=C(C=C1)[N+](=O)[O-])C)CCCCCCC | C20H34N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 92 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.74 g | [Pd] | Pd
product | N-ethyl-N-heptyl-α-methyl-4-aminobenzenebutanamine | 6.312 g | C(C)N(C(CCCC1=CC=C(C=C1)N)C)CCCCCCC | C20H36N2
